US06903215B2
To a chilled (0° C.) suspension of 4.3 g (22.58 mmol) of copper (I) iodide (purified by Soxhlet extraction with THF) in 100 mL of diethyl ether was added 26 mL (41.60 mmol) of a 1.6 M solution of methyl lithium in ether over a 15 minute period. After the addition, the mixture stirred for 10 min and was then cooled to −25° C. and a solution of 4.0 g (15.19 mmol) of 2-cyano-3-(4-fluoro-2-methoxyphenyl)but-2-enoic acid methyl ester in 50 mL of diethyl ether was added over a 20 minute period. The mixture stirred at −25° C. for 30 minutes and was then allowed to warm to room temperature. The reaction was monitored by proton NMR. After 1.5 hours, an aliquot partitioned between EtOAc and 1 N aqueous HCl indicated starting material was gone and desired product was present. The reaction was cautiously poured into brine and then saturated aqueous ammonium chloride was added followed by 1 N aqueous HCl and EtOAc. The mixture was filtered through diatomaceous earth and the aqueous layer was separated and extracted with three 50 mL portions of EtOAc. The combined organic layers were washed with 30 mL of 1 N aqueous HCl, 30 mL of brine, and three 25 mL portions of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated to afford 4.2 g (99%) of 2-cyano-3-(4-fluoro-2-methoxyphenyl)-3-methylbutyric acid methyl ester.

reactant | methyl lithium | C[Li]
reactant | 2-cyano-3-(4-fluoro-2-methoxyphenyl)but-2-enoic acid methyl ester | 15.19 mmol, 4.0 g | COC(C(=C(C)C1=C(C=C(C=C1)F)OC)C#N)=O | C13H12FNO3
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
catalyst | copper (I) iodide | 22.58 mmol, 4.3 g | [Cu]I
product | 2-cyano-3-(4-fluoro-2-methoxyphenyl)-3-methylbutyric acid methyl ester | 4.2 g, 99% | COC(C(C(C)(C)C1=C(C=C(C=C1)F)OC)C#N)=O | C14H16FNO3
